US04547501
(b) Preparation of 6-fluoro-2-hydrazino-3-methoxyquinoxaline
To a solution consisting of 47 g. (0.22 mole) of 2-chloro-6-fluoro-3-methoxyquinoxaline dissolved in 1000 ml. of ethanol, there were added 27.6 g. (0.55 mole) of hydrazine hydrate (26.8 ml.). The resulting mixture was stirred at room temperature overnight (i.e., at ca. 20° C. for approximately 16 hours). An additional amount of hydrazine hydrate (9.0 ml.) was then added and the final reaction mixture was allowed to stir at room temperature for a period of four hours. At this point, the precipitate was filtered and washed with ethanol to ultimately afford 43.3 g. (94%) of pure 6-fluoro-2-hydrazino-3-methoxyquinoxaline, m.p. 170°-174° C. (decomp.).

reactant | 2-chloro-6-fluoro-3-methoxyquinoxaline | 0.22 mole | ClC1=NC2=CC=C(C=C2N=C1OC)F | C9H6ClFN2O
reactant | hydrazine hydrate | 0.55 mole, 26.8 ml | O.NN
reactant | hydrazine hydrate | 9.0 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-fluoro-2-hydrazino-3-methoxyquinoxaline | FC=1C=C2N=C(C(=NC2=CC1)NN)OC | C9H9FN4O
